US08383821B2
4′-Methoxy-3′-methyl-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile.
tert-Butyl 4-((5-bromo-2-methoxy-3-methylbenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (65 mg, 0.13 mmol), 4-cyanophenylboronic acid (76.4 mg, 0.52 mmol), and tetrakis(triphenylphosphine) palladium(0) (20 mg, 0.01 mmol) were combined in dry tetrahydrofuran (2 mL) in a microwave tube and sealed. After flushing with nitrogen, 0.46 mL of a 1 N potassium hydroxide aqueous solution was introduced. The mixture was heated at 120° C. for 1 h via microwave. After cooling to room temperature, the reaction mixture was concentrated and treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 2 mL) for 1 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol and concentrated to afford 28 mg (51%). 1H-NMR (CDCl3, 500 MHz) δ 7.69 (s, 1H), 7.68 (s, 1H), 7.55 (s, 1H), 7.53 (s, 1H), 7.37 (s, 1H), 7.36 (s, 1H), 7.27-7.30 (m, 3H), 7.17-7.20 (m, 2H), 4.46 (s, 2H), 3.61 (s, 3H), 3.50 (s, 2H), 2.89-2.92 (m, 2H), 2.72-2.76 (m, 2H), 2.31 (s, 3H), 2.16-2.19 (m, 2H), 1.88-1.93 (m, 2H). 13C-NMR (CDCl3, 126 MHz) δ 157.1, 145.4, 144.4, 134.7, 132.5, 132.4, 131.7, 129.2, 128.3, 127.6, 127.4, 126.1, 125.8, 119.1, 110.6, 80.2, 68.2, 60.9, 42.7, 41.9, 33.6, 16.2. Mass spec.: 427.42 (MH)+. Accurate mass spec.: m/z 427.2378 [MH]+, Δ=1.8 ppm.

reactant | tert-Butyl 4-((5-bromo-2-methoxy-3-methylbenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.13 mmol, 65 mg | BrC=1C=C(C(=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C1)OC)C | C26H34BrNO4
reactant | 4-cyanophenylboronic acid | 0.52 mmol, 76.4 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.01 mmol, 20 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4′-Methoxy-3′-methyl-5′-(((4-phenylpiperidin-4-yl)methoxy)methyl)biphenyl-4-carbonitrile | COC1=C(C=C(C=C1COCC1(CCNCC1)C1=CC=CC=C1)C1=CC=C(C=C1)C#N)C | C28H30N2O2
